US05861421
To a solution of 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-ethynylcyclohexan-1-one (0.28g, 0.9 mmol) and 1-tert.-butylcarbonyl-2-iodoimidazole (0.29 g, 0.97 mmol) in triethylamine (5 mL) under an argon atmosphere were added tetrakis(triphenyl-phosphine)palladium(0) (0.042 g, 4%), copper(I) iodide (0.005 g, 6%), and a small crystal of triphenylphosphine, and the mixture was heated at 80°-85° C. for 1 h. Water was added and the mixture was extracted three times with dichloromethane, was dried (magnesium sulfate) and was evaporated. Purification by flash chromatography, eluting with 3:7 ethyl acetate:hexanes provided 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(1-tert-butylcarbonylimidazol-2-ylethynyl)cyclohexan-1-one (0.18 g, 4%), as a colorless oil. 1H-NMR (400 MHz, CDCl3) δ 7.36 (s, 1H), 7.20 (d, J=2.1 Hz, 1H), 7.17 (dd, J=8.5, 2.1 Hz, 1H), 7.01 (s, 1H), 6.85 (d, J=8.5 Hz, 1H), 4.85 (m, 1H), 3.84 (s, 3H), 3.18 (m, 2H), 2.44 (m, 4H), 2.22 (m, 2H), 1.8-2.0 (m, 6H), 1.6 (m, 11H) ppm.

reactant | 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-ethynylcyclohexan-1-one | 0.9 mmol, 0.28g | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC(CC1)=O)C#C | C20H24O3
reactant | 1-tert.-butylcarbonyl-2-iodoimidazole | 0.97 mmol, 0.29 g | C(C)(C)(C)C(=O)N1C(=NC=C1)I | C8H11IN2O
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Water | O | H2O
solvent | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
catalyst | copper(I) iodide | 0.005 g | [Cu]I
product | 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(1-tert-butylcarbonylimidazol-2-ylethynyl)cyclohexan-1-one | 0.18 g, 4% | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC(CC1)=O)C#CC=1N(C=CN1)C(=O)C(C)(C)C | C28H34N2O4
